//Spice netlist for an inverter 
simulator lang=spectre
subckt IV (input output VDD VSS)
        parameters wp=0.6u lp=0.2u wn=0.3u ln=0.3u              
        M1 output input VDD VDD tsmc18P w=wp l=lp
        M2 output input VSS VSS tsmc18N w=wn l=ln
ends IV
