//Spice netlist for an XOR2 
simulator lang=spectre
subckt XOR2 (inputA inputB output VDD VSS)
        parameters wp=0.6u lp=0.2u wn=0.3u ln=0.3u    
        M1 outputAbar inputA VDD VDD tsmc18P w=wp l=lp  //for the inverter 1
        M2 outputAbar inputA VSS VSS tsmc18N w=wp l=lp  //for the inverter 1

        M3 outputBbar inputB VDD VDD tsmc18P w=wp l=lp  //for the inverter 2
        M4 outputBbar inputB VSS VSS tsmc18N w=wp l=lp  //for the inverter 2
         
         
        M5 X inputB VDD VDD tsmc18P w=wp l=lp
        M6 Y Bbar VDD VDD tsmc18P w=wn l=ln
        M7 output Abar X VDD tsmc18P w=wp l=lp
        M8 output inputA Y VDD tsmc18P w=wn l=ln

        M9 output Abar R VSS tsmc18N w=wp l=lp
        M10 output inputA S VDD tsmc18N w=wn l=ln
        M11 R Bbar  VSS tsmc18N w=wp l=lp
        M12 S inputB VSS VSS tsmc18N w=wn l=ln
ends XOR2
